US08283353B2
3′-fluoro-4′-{[2-methyl-5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (1 g) and 5-methyl-N-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine (0.25 g) was stirred at 250° C. for 15 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.43 g, 65%).

reactant | ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 1 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
reactant | 5-methyl-N-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine | 0.25 g | CC=1NC(=NN1)NC1CCOCC1 | C8H14N4O
product | 3′-fluoro-4′-{[2-methyl-5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.43 g, 65% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)C2CCOCC2)=O)C=2C(=CC=CC2)C#N | C28H28FN5O2
